US05196140
A mixture of 0.1 mol of 4-(trans-4-propylcyclohexyl)-cyclohex-1-ene, 0.1 mol of heptafluoropropyl iodide, 10 mol % of tetrakis-(triphenylphosphine)-palladium and 200 ml of hexane is heated under reflux for 24 hours (compare T. Ishihara, Chemistry Letters (1986) 1895). The isomer mixture of the addition product thus formed is, after the catalyst has been filtered off, first heated with tributyl-tin hydride for 90 hours in toluene and reduced. The all-trans product, trans-4-(trans-4-propylcyclohexyl)-1-heptafluoropropylcyclohexane, is finally obtained by separating the thiourea inclusion compound from a solution in methanol.

reactant | 4-(trans-4-propylcyclohexyl)-cyclohex-1-ene | 0.1 mol | C(CC)[C@@H]1CC[C@H](CC1)C1CC=CCC1 | C15H26
reactant | heptafluoropropyl iodide | 0.1 mol | FC(C(F)(F)I)(C(F)(F)F)F | C3F7I
catalyst | tetrakis-(triphenylphosphine)-palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | hexane | 200 ml | CCCCCC | C6H14
product | trans-4-(trans-4-propylcyclohexyl)-1-heptafluoropropylcyclohexane | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(C(C(F)(F)F)(F)F)(F)F | C18H27F7
